US08053013B2
Preparation of a Liquid Process Flavour Containing N-Lactoyl-Glucosamine
75 g of lactic acid (90% pure) was mixed with 22.5 g of glucosamine.HCl and 2.5 g of Dextrose. The mixture was reacted at 120 C for 4 hours. The reacted mixture was cooled down and stored at 4 C.

reactant | lactic acid | 75 g | C(C(O)C)(=O)O | C3H6O3
reactant | glucosamine | 22.5 g | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
reactant | HCl | Cl | ClH
reactant | Dextrose | 2.5 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | N-Lactoyl-Glucosamine | C(C(O)C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C9H17NO7
